US05202319
3-Amino-2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)-3-benzazepine maleate
Zinc dust (12 g) was added to a solution of 3-nitroso-2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)-3-benzazepine (9 g) in 150 ml of 2:1 acetic acid/water mixture. After stirring at ambient temperature for three hours, the reaction mixture was filtered, stirred with ice and basified with ammonium hydroxide. The oil which had separated was extracted with dichloromethane. The dried (anhydrous magnesium sulfate) organic extract was filtered and concentrated. The residue was eluted through silica with 3% methanol in dichloromethane via high performance liquid chromatography to yield 6.3 g of white solid, mp 98°-100°. A three gram portion was converted to the maleate salt in 5% methanol/ether to yield 2.7 g of white solid, mp 129°-131°.

reactant | 3-nitroso-2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)-3-benzazepine | 9 g | N(=O)N1CCC2=C(C(C1)OC1=CC=C(C=C1)C(F)(F)F)C=CC=C2 | C17H15F3N2O2
reactant | acetic acid water | 150 ml | C(C)(=O)O.O
catalyst | Zinc | 12 g | [Zn] | Zn
product | 3-Amino-2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)-3-benzazepine maleate | 6.3 g | C(\C=C/C(=O)O)(=O)O.NN1CCC2=C(C(C1)OC1=CC=C(C=C1)C(F)(F)F)C=CC=C2 | InChI=1S/C17H17F3N2O.C4H4O4/c18-17(19,20)13-5-7-14(8-6-13)23-16-11-22(21)10-9-12-3-1-2-4-15(12)16;5-3(6)1-2-4(7)8/h1-8,16H,9-11,21H2;1-2H,(H,5,6)(H,7,8)/b;2-1-
